US04124764
84.6 g. of 1-methyl-4-carboethoxy-5-aminopyrazole and 74.1 g. of orthoformic acid triethyul ester are heated together until the splitting off of ethanol has ended. The oily residue is distilled under oil pump vacuum to obtain 5-[(ethoxy-methylene)amino]-1-methyl-1h-pyrazole-4-carboxylic acid, ethyl ester b.p. 98°-102°; m.p. 32°-34° (yield87%).

reactant | 1-methyl-4-carboethoxy-5-aminopyrazole | CN1N=CC(=C1N)C(=O)OCC | C7H11N3O2
reactant | orthoformic acid | C(O)(O)O | CH4O3
reactant | ethanol | C(C)O | C2H6O
product | 5-[(ethoxy-methylene)amino]-1-methyl-1h-pyrazole-4-carboxylic acid, ethyl ester | yield87% | C(C)OC=NC1=C(C=NN1C)C(=O)OCC | C10H15N3O3
